US04656165
(d) (2R,3R)-N-p-methoxybenzyl-N-tert.-butylsulphonylmethyl-2,3-epoxybutyramide
At -14° with the exclusion of moisture, 340 ml of 1,5-diazabicyclo[5.4.0]undec-5-ene in 1 ml of tetrahydrofuran are added to a solution of 486 mg (1.1 mmol) of (2S,3R)-N-p-methoxybenzyl-N-tert.-butylsulphonylmethyl-2-bromo-3-hydroxybutyramide in 8 ml of tetrahydrofuran. The solution is stirred at room temperature for 75 minutes. After the addition of methylene chloride, the organic phase is extracted by shaking with 15% aqueous citric acid solution and 8% aqueous sodium bicarbonate solution. The organic phase is dried over sodium sulphate and concentrated by evaporation under reduced pressure. After chromatography of the residue over silica gel with toluene/ethyl acetate (4:1), the title compound is obtained in the form of a colourless, viscous oil. Rf (toluene/ethyl acetate 1:1): 0.29; [α]=+45± 1° (1.065% in CHCl3). The 1H-NMR spectrum (400 MHz in CDCl3) points to the existence of two rotamers in a ratio of 1:2.8.

reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 340 ml | N12CCCN=CC2CCCC1 | C9H16N2
reactant | (2S,3R)-N-p-methoxybenzyl-N-tert.-butylsulphonylmethyl-2-bromo-3-hydroxybutyramide | 1.1 mmol, 486 mg | COC1=CC=C(CN(C([C@H]([C@@H](C)O)Br)=O)CS(=O)(=O)C(C)(C)C)C=C1 | C17H26BrNO5S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (2R,3R)-N-p-methoxybenzyl-N-tert.-butylsulphonylmethyl-2,3-epoxybutyramide | COC1=CC=C(CN(C([C@H]2[C@@H](C)O2)=O)CS(=O)(=O)C(C)(C)C)C=C1 | C17H25NO5S
